* D:\Disco D\universita\magistrale\progettazione-low-power\progetti\progetto-1\ltspice\buffer\optimized\buffer_optimized.asc
M1 supplyL OUT OUTL supplyL EECMOSP l=l_min_pmos w={w_min_pmos*S_LOAD}
M2 OUTL OUT 0 0 EECMOSN l=l_min_nmos w={w_min_nmos*S_LOAD}
M3 supply N001 OUT supply EECMOSP l=l_min_pmos w={w_min_pmos*S2}
M4 OUT N001 0 0 EECMOSN l=l_min_nmos w={w_min_nmos*S2}
M5 supply OUTMIN N001 supply EECMOSP l=l_min_pmos w={w_min_pmos*S1}
M6 N001 OUTMIN 0 0 EECMOSN l=l_min_nmos w={w_min_nmos*S1}
M7 supply IN OUTMIN supply EECMOSP l=l_min_pmos w=w_min_pmos
M8 OUTMIN IN 0 0 EECMOSN l=l_min_nmos w=w_min_nmos
Vsupply supply 0 1
VsupplyL supplyL 0 1
Vin IN 0 PULSE(0 1 5n 10p 10p 5n 10n)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\giorg\AppData\Local\LTspice\lib\cmp\standard.mos
* - ### Buffer\n    - #### energy\n        - energy_connected_buffer `keep the entire circuit connected and carry out the measurements taking into account v(supply) and i(Vsupply) between 13 ns and 22 ns`\n    - #### delay\n        - ##### rise\n            - rise_delay_connected_buffer `keep the entire circuit connected and carry out the measurements taking into account v(IN) and V(OUT)`\n        - ##### fall\n            - fall_delay_connected_buffer `keep the entire circuit connected and carry out the measurements taking into account v(IN) and V(OUT)`
.PARAM l_min_pmos=0.1u  ; Batch instruction
.PARAM w_min_pmos=0.2u  ; Batch instruction
.PARAM l_min_nmos=0.1u  ; Batch instruction
.PARAM w_min_nmos=0.12u  ; Batch instruction
.PARAM S1= table(index,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.0,1.29568,1.645862,1.0,3.272149,1.0,1.0,1.0,1.0,3.639962,3.687)  ; Batch instruction
.PARAM S2= table(index,1.522233,1.558074,1.594455,1.631416,1.669031,1.705245,1.744604,1.785162,1.827207,1.871095,1.95611,1.893608,2.057649,2.078245,2.181277,2.183318,2.232473,2.534522,2.415108,2.568006,2.67192,2.808308,2.959713,3.130316,3.324425,3.566452,3.810408,4.182928,4.65833,5.299788,6.999738,7.071009,7.991315,6.808999,7.082803,15.15794,7.074697,6.539919,8.500874,7.071916,13.42104,13.36968)  ; Batch instruction
.PARAM S_LOAD=50  ; Batch instruction
.inc ../../../../../ltspice/models-montecarlo-experiments/RIT_Models_For_LTSPICE.txt
.tran 0 50n 0
.step param index 1 38.27272727272727 1
.measure tran energy_connected INTEG (v(supply)*i(Vsupply)) from=13n to=22n
.measure tran rise_delay_connected trig v(IN) val=0.5 fall=1 targ v(OUT) val=0.5 rise=1
.measure tran fall_delay_connected trig v(IN) val=0.5 rise=1 targ v(OUT) val=0.5 fall=1
.backanno
.end
